US04232037
Example 4. 3,5-Dichloro-2,6-dimethoxybenzoic acid
A solution of 20 ml (0.25 mol) of sulphuryl chloride in 50 ml of chloroform is added dropwise to a solution of 15.0 g (0.08 mol) 2,6-dimethoxybenzoic acid in 100 ml of chloroform. The solution is left over night at room temperature and is then refluxed for 0.5 h. The solvent is evaporated and the residue recrystallized twice from light petroleum. Yield: 17.0 g, m.p. 98°-100° C. (first recrystallization). Yield: 12.0 g, m.p. 102°-103° C. (second recrystallization).

reactant | sulphuryl chloride | 0.25 mol, 20 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2,6-dimethoxybenzoic acid | 0.08 mol, 15.0 g | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-Dichloro-2,6-dimethoxybenzoic acid | ClC=1C(=C(C(=O)O)C(=C(C1)Cl)OC)OC | C9H8Cl2O4
